US07291631B2
COMPOUND 300: 4-[(3,5-Dimethyl-piridin-2-ylmethyl)-(3-isopropyl-pyridin-2-ylmethyl)-amino]-piperidine-1-carboxylic acid methoxy-amide.
(3,5-Dimethyl-pyridin-2-ylmethyl)-(3-isopropyl-pyridin-2-ylmethyl)-piperidin-4-yl-amine (125 mg, 0.36 mmol) and N-(phenoxycarbonyl)methoxylamine (120 mg, 0.71 mmol) were stirred in THF (3.5 mL) for 16 hours. The solvent was removed under reduced pressure and the residue purified by column chromatography with silica gel (20:1:0.2 CH2Cl2MeOH:NH4OH), COMPOUND 300 as a sticky solid (110 mg, 72%). 1H NMR (CDCl3) δ 0.93 (d, 6H, J=6.9 Hz), 1.62 (dq, 2H, J=12.3, 3.8 Hz), 1.89 (br d, 2H, J=12.3 Hz), 2.16 (s, 3H), 2.28 (s, 3H), 2.64 (br t, 2H, J=12.3 Hz), 2.74 (m, 1H), 2.78 (sept, 1H, J=6.9 Hz), 3.71 (s, 3H), 3.77 (s, 2H), 3.82 (s, 2H), 4.02 (br d, 2H, J=12.0 Hz), 7.13 (br, 1H(NH)), 7.16 (m, 1H), 7.24 (s, 1H), 7.50 (d, 1H, J=7.2 Hz), 8.18 (s, 1H), 8.32 (d, 1H, J=3.9 Hz). 13C NMR (CDCl3) δ 18.30, 18.45, 23.59 (2C), 27.30 (2C), 27.38, 44.40 (2C), 54.35 (2C), 57.24, 64.49, 123.20, 132.30, 133.23, 133.88, 139.09, 144.42, 146.05, 146.63, 154.42, 156.24, 159.06. ES-MS m/z 426 (M+H). Anal. Calcd. for C24H35N5O2.0.3CH2Cl2: C, 64.71; H, 7.96; N, 15.53. Found: C, 64.94; H, 8.09; N, 15.88.

reactant | (3,5-Dimethyl-pyridin-2-ylmethyl)-(3-isopropyl-pyridin-2-ylmethyl)-piperidin-4-yl-amine | 0.36 mmol, 125 mg | CC=1C(=NC=C(C1)C)CN(C1CCNCC1)CC1=NC=CC=C1C(C)C | C22H32N4
reactant | N-(phenoxycarbonyl)methoxylamine | 0.71 mmol, 120 mg | O(C1=CC=CC=C1)C(=O)CON | C8H9NO3
reactant | THF | 3.5 mL | C1CCOC1 | C4H8O
product | 4-[(3,5-Dimethyl-piridin-2-ylmethyl)-(3-isopropyl-pyridin-2-ylmethyl)-amino]-piperidine-1-carboxylic acid methoxy-amide | CONC(=O)N1CCC(CC1)N(CC1=NC=CC=C1C(C)C)CC1=NC=C(C=C1C)C | C24H35N5O2
